US06806265B2
c) Ethyl 4-{{4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylphenyl}amino}benzoate
A degassed mixture of 11-ethyl-5,11-dihydro-8-[2-(4-amino-2-methylphenoxy)ethyl]-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (100 mg, 0.25 mmol), ethyl 4-bromobenzoate (61.0 μL, 0.37 mmol), t-BuONa (36.0 mg, 0.37 mmol), Pd2(dba)3 (2.5 mg, 2.7 μmol) and (+/−)-BINAP (5.0 mg, 8.0 1mol) in toluene (8 mL) was heated to 105° C. under nitrogen for 48 h. The cooled reaction mixture was diluted with EtOAc, filtered through a short pad of diatomaceous earth and was concentrated under reduced pressure. The residue was purified by flash chromatography (Hexane:EtOAc, 1:1) to give the title compound (55 mg, 40% yield) as a white solid.

reactant | 11-ethyl-5,11-dihydro-8-[2-(4-amino-2-methylphenoxy)ethyl]-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 0.25 mmol, 100 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=C(C=C(C=C3)N)C)=O)C)C=CC=N2 | C23H25N5O2
reactant | ethyl 4-bromobenzoate | 0.37 mmol, 61.0 μL | BrC1=CC=C(C(=O)OCC)C=C1 | C9H9BrO2
reactant | t-BuONa | 0.37 mmol, 36.0 mg | C(C)(C)(C)O[Na]
reactant | (+/−)-BINAP | 1mol, 5.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 2.7 μmol, 2.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Ethyl 4-{{4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylphenyl}amino}benzoate | 55 mg, 40% yield | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=C(C=C(C=C3)NC3=CC=C(C(=O)OCC)C=C3)C)=O)C)C=CC=N2 | C32H33N5O4
